US04267175
1-methylhomopiperazine (prepared as described by A. H. Sommers et al, in J. Amer. Chem. Soc. 76, 5805, 1954) (6.10 g, 0.0535 mole) was dissolved in concentrated hydrochloric acid (25 ml), cooled to 0°-5° C., stirred and treated dropwise with sodium nitrite (4.06 g) in water (10 ml). After addition the solution was allowed to come to room temperature, then heated for 1/2 hour at 70° C. The solution was cooled and basified with solid KOH and extracted with ether (3×100 ml). The dried (K2CO3) extracts yielded N-methyl-N'-nitrosohomopiperazine (3.80 g, 50%) as a pale yellow oil.

reactant | 1-methylhomopiperazine | CN1CCNCCC1 | C6H14N2
reactant | sodium nitrite | 4.06 g | N(=O)[O-].[Na+]
reactant | KOH | [OH-].[K+]
solvent | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | N-methyl-N'-nitrosohomopiperazine | 3.80 g, 50% | CN1CCN(CCC1)N=O | C6H13N3O
